US08222314B2
2-[(Phenylcarbamoyl)oxy]ethyl prop-2-enoate
0.25 g of 2,6-di-tert-butyl-4-methylphenol, 0.12 g of Desmorapid Z, 126.4 g of phenyl isocyanate were initially introduced into a 500 ml round-bottomed flask and heated to 60° C. Thereafter, 123.3 g of 2-hydroxyethyl acrylate were added dropwise and the mixture was kept further at 60° C. until the isocyanate content had fallen below 0.1%. Cooling was then effected. The product was obtained as a crystalline solid (preparation described in DE 2329142).

reactant | 2,6-di-tert-butyl-4-methylphenol | 0.25 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | Desmorapid | 0.12 g | CN(C)CCCN1CN(CN(C1)CCCN(C)C)CCCN(C)C | C18H42N6
reactant | phenyl isocyanate | 126.4 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-hydroxyethyl acrylate | 123.3 g | C(C=C)(=O)OCCO | C5H8O3
reactant | isocyanate | [N-]=C=O
product | 2-[(Phenylcarbamoyl)oxy]ethyl prop-2-enoate | C(C=C)(=O)OCCOC(NC1=CC=CC=C1)=O | C12H13NO4
